US05488055
A mixture of 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]quinoline (1.0 g, 0.0043 mmol), cyclohexanemethylamine (1.2 ml, 0.009 mol) and DMSO (3 ml) was heated at 80° C. overnight. The reaction mixture was pured into water (100 ml)/NH4OH (0.5 ml) and was extracted with CH2Cl2. The solvent was evaporated to about 20 ml and then the mixture was purified by chromatography on silica gel, followed by high pressure liquid chromatography eluting with 20% EtOAc/hexane to 50% EtOAc/hexane to afford the product as the free base. The free base was dissolved in CH2Cl2 (20 ml) and treated with ethereal HCl and the solution was evaporated. The residue was crystallized from ethyl acetate/ether/ethanol to afford 1-ethyl-3-methyl-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine hydrochloride, m.p. 215°-217° C.

reactant | 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]quinoline | 0.0043 mmol, 1.0 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)CC | C13H12ClN3
reactant | cyclohexanemethylamine | 0.009 mol, 1.2 ml | C1(CCCCC1)CN | C7H15N
reactant | NH4OH | 0.5 ml | [NH4+].[OH-]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 1-ethyl-3-methyl-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine hydrochloride | Cl.C(C)N1N=C(C=2C1=NC1=CC=CC=C1C2NCC2CCCCC2)C | InChI=1S/C20H26N4.ClH/c1-3-24-20-18(14(2)23-24)19(16-11-7-8-12-17(16)22-20)21-13-15-9-5-4-6-10-15;/h7-8,11-12,15H,3-6,9-10,13H2,1-2H3,(H,21,22);1H
